US09055749B2
Step 4. Synthesis of 1-(4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl}-2-bromophenyl)methanamine
Methanesulfonyl chloride (0.17 g) was added to (4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl}-2-bromophenyl)methanol (0.46 g) and triethylamine (0.26 g) in THF at −10° C. and the resultant mixture was stirred for 30 min. The mixture was poured into ammonia (10 ml), THF (10 ml) and MeOH (10 ml), and the resultant was stirred at room temperature overnight. After the solvents were evaporated under reduced pressure, the residue was diluted with t-BuOMe and H2O, and the organic layer was dried over MgSO4. After the solvents were evaporated under reduced pressure, the residue was purified with column chromatography to get the targeted product (0.4 g).

reactant | Methanesulfonyl chloride | 0.17 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | (4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl}-2-bromophenyl)methanol | 0.46 g | FC(C1=NC(=CC(=C1)C1(CN=C(C1)C1=CC(=C(C=C1)CO)Br)C(F)(F)F)C(F)(F)F)(F)F | C19H12BrF9N2O
reactant | triethylamine | 0.26 g | C(C)N(CC)CC | C6H15N
reactant | ammonia | 10 ml | N | H3N
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | MeOH | 10 ml | CO | CH4O
product | 1-(4-{3-[2,6-bis(trifluoromethyl)pyridin-4-yl]-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl}-2-bromophenyl)methanamine | 0.4 g | FC(C1=NC(=CC(=C1)C1(CN=C(C1)C1=CC(=C(C=C1)CN)Br)C(F)(F)F)C(F)(F)F)(F)F | C19H13BrF9N3
